US05011927
(a) 2-Amino-4,6-difluoropyrimidine
69.7 g (4.1 mol) of liquid ammonia were added at -30° to -20° C. to a stirred mixture of 250 g (1.865 mol) of 2,4,6-trifluoropyrimidine and 3.3 1 of diethyl ether within 1 hour. To work up, the reaction mixture was warmed to 25° C. and the precipitate was filtered off. Washing with ether, stirring in water, renewed filtration and drying resulted in 203 g (83% of theory) of the desired product (melting point 214°-216° C.). It was possible by concentrating the ether filtrate to about 1/3 of its volume to isolate a further 20 g (8% of theory) of this compound, of melting point 193°-196° C., from a 1:1 mixture with the isomeric 4-amino compound. Comparative experiment (according to SU-A 547,447--1975)

reactant | ammonia | N | H3N
reactant | 2,4,6-trifluoropyrimidine | 1.865 mol, 250 g | FC1=NC(=CC(=N1)F)F | C4HF3N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Amino-4,6-difluoropyrimidine | NC1=NC(=CC(=N1)F)F | C4H3F2N3
